US09332754B2
Production of 6-trifluoromethylthiohexyl-[2,4-dimethyl-5-(2,2,2-trifluoroethylsulfinyl)phenyl]ether (present compound No. A-0481)
In 40 ml of chloroform was dissolved 1.36 g (3.23 mmol) of 6-trifluoromethylthiohexyl-[2,4-dimethyl-5-(2,2,2-trifluoroethylthio)phenyl]ether. Thereto was added 0.67 g (2.72 mmol) of 3-chloroperbenzoic acid (purity: about 70%) under ice cooling, and the mixture was stirred for 30 minutes at room temperature. Then, saturated aqueous solution of sodium thiosulfate was added to the reaction mixture to decompose excess peroxide. Thereafter, the solvent was distilled off under reduced pressure, and extraction was conducted by adding ethyl acetate and water. The organic phase obtained was washed by aqueous potassium carbonate solution and saturated aqueous sodium chloride solution in this order, and dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure, and the residue was purified by silica gel column chromatography (developing solvent: a mixed solvent of n-hexane:ethyl acetate=5:1), to obtain 0.87 g (yield: 62%) of an intended product.

reactant | 6-trifluoromethylthiohexyl-[2,4-dimethyl-5-(2,2,2-trifluoroethylthio)phenyl]ether | 3.23 mmol, 1.36 g | FC(SCCCCCCOC1=C(C=C(C(=C1)SCC(F)(F)F)C)C)(F)F | C17H22F6OS2
reactant | 3-chloroperbenzoic acid | 2.72 mmol, 0.67 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
reactant | n-hexane | CCCCCC | C6H14
solvent | chloroform | 40 ml | C(Cl)(Cl)Cl | CHCl3
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6-trifluoromethylthiohexyl-[2,4-dimethyl-5-(2,2,2-trifluoroethylsulfinyl)phenyl]ether | 0.87 g, yield: 62% | FC(SCCCCCCOC1=C(C=C(C(=C1)S(=O)CC(F)(F)F)C)C)(F)F | C17H22F6O2S2
